US04711889
A solution of 6.1 g of 10-[2-(diethylamino)ethyl]-9-acridanone thiosemicarbazone in 100 ml of dimethylformamide is stirred for about 18 hours with 4.3 ml of chloroacetaldehyde (50 percent solution in water). The mixture is subsequently evaporated, the residue is taken up in 50 ml of ethanol, made acid to Congo red with ethanolic hydrochloric acid and the crystals formed are filtered. The crystals are washed successively with ethanol, ether and petroleum ether and there is obtained 10-[2-(diethylamino)ethyl]-9-acridanone (2-thiazolyl)hydrazone dihydrochloride of melting point 214°-216° (decomposition).

reactant | 10-[2-(diethylamino)ethyl]-9-acridanone thiosemicarbazone | 6.1 g | C(C)N(CCN1C=2C=CC=CC2C(C2=CC=CC=C12)=NNC(=S)N)CC | C20H25N5S
reactant | chloroacetaldehyde | 4.3 ml | ClCC=O | C2H3ClO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 10-[2-(diethylamino)ethyl]-9-acridanone (2-thiazolyl)hydrazone dihydrochloride | Cl.Cl.S1C(=NC=C1)NN=C1C2=CC=CC=C2N(C=2C=CC=CC12)CCN(CC)CC | InChI=1S/C22H25N5S.2ClH/c1-3-26(4-2)14-15-27-19-11-7-5-9-17(19)21(18-10-6-8-12-20(18)27)24-25-22-23-13-16-28-22;;/h5-13,16H,3-4,14-15H2,1-2H3,(H,23,25);2*1H
